US08378104B2
trans-4-{4-[7-(methylamino)-2-(thieno[2,3-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol
A mixture of 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chloro-N-methylfuro[2,3-c]pyridin-7-amine (44.3 mg, 0.0961 mmol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine (33.9 mg, 0.130 mmol), and Pd(PPh3)4 (12.8 mg, 0.0111 mmol) in 1,4-dioxane (0.5 mL) was charged with 1.0 M aqueous sodium carbonate (0.5 mL) and then irradiated in a microwave at 120° C. for 60 min. The reaction mixture was then charged with 4.0 M hydrochloric acid in 1,4-dioxane (0.6 mL) and stirred at rt for 30 min. The suspension was concentrated in vacuo. The residue was partitioned between a mixture of dichloromethane and aqueous sodium bicarbonate and the layers were separated. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by ISCO chromatography (2 to 10% 7 N ammonia/methanol:dichloromethane) afforded 30.1 mg (69%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 9.40 (s, 1H), 8.79 (s, 1H), 8.65 (s, 2H), 8.23 (s, 1H), 8.08 (s, 1H), 7.95 (d, J=0.76 Hz, 1H), 7.73 (s, 1H), 6.97 (q, J=4.55 Hz, 1H), 4.70 (d, J=4.55 Hz, 1H), 4.19 (tt, J=3.95, 11.59 Hz, 1H), 3.48-3.59 (m, 1H), 3.02 (d, J=4.80 Hz, 3H), 2.07 (d, J=12.13 Hz, 2H), 1.82-2.01 (m, 4H), 1.31-1.46 (m, 2H); MS (ESI): 446.16 [M+H]+; HPLC tR=2.50 min.

reactant | 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-chloro-N-methylfuro[2,3-c]pyridin-7-amine | 0.0961 mmol, 44.3 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)NC)OC(=C2)Cl | C23H33ClN4O2Si
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine | 0.130 mmol, 33.9 mg | CC1(OB(OC1(C)C)C1=CSC2=CN=CC=C21)C | C13H16BNO2S
reactant | sodium carbonate | 1.0 M, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0111 mmol, 12.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-4-{4-[7-(methylamino)-2-(thieno[2,3-c]pyridin-3-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | 30.1 mg, 69% | CNC=1N=CC(=C2C1OC(=C2)C2=CSC1=CN=CC=C12)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C24H23N5O2S
